US08530475B2
1-[9-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl]-3-(1H-indol-4-yloxy)-propan-2-ol
7-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene (15 mg, 0.055 mmol) and 4-oxiranylmethoxy-1H-indole (20 mg, 0.106 mmol) were placed in a μW tube with ethanol (2 ml), DiPEA (0.2 mL) and heated to 120° C. for 900 sec. The solvent was evaporated to yield a crude oil, which was purified via reverse phase chromatography (20% CH3CN to 90% CH3CN in water) to yield the title compound as a residue.

reactant | 7-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-ene | 0.055 mmol, 15 mg | O1CCOC2=C1C=CC(=C2)N2C1CC=CCC(C2)NC1 | C16H20N2O2
reactant | 4-oxiranylmethoxy-1H-indole | 0.106 mmol, 20 mg | O1C(C1)COC1=C2C=CNC2=CC=C1 | C11H11NO2
reactant | DiPEA | 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 1-[9-(2,3-Dihydro-benzo[1,4]dioxin-6-yl)-7,9-diaza-bicyclo[4.2.2]dec-3-en-7-yl]-3-(1H-indol-4-yloxy)-propan-2-ol | O1CCOC2=C1C=CC(=C2)N2C1CC=CCC(N(C1)CC(COC1=C3C=CNC3=CC=C1)O)C2 | C27H31N3O4
